US06608048B2
N-[3-Cyano-4-(2,4-dichloro-5-methoxyanilino)-6-methoxy-7-quinolinyl]acetamide
An amount of 9.7 g (0.035 mol) of N-(4-chloro-3-cyano-6-methoxy-7-quinolinyl)acetamide was stirred in 97 ml of 2-ethoxyethanol. To this were added 2,4-dichloro-5-methoxyaniline (7.4 g, 0.038 mol), and 4.1 g (0.035 mol) pyridine hydrochloride, and the mixture was heated at 135° C. for 3 hours. The solvent was evaporated and the solid was stirred in saturated sodium bicarbonate solution and extracted with ethyl acetate. The organic phase was washed with saturated brine solution, dried over sodium sulfate and evaporated to dryness to give a brown solid (10.7 g, 71% yield), mp 267-270° C.; 1H NMR (DMSO-d6) δ 9.94 (s, 1H), 9.01 (s, 1H), 8.99 (s, 1H), 8.42 (s, 1H), 7.97 (m, 1H), 7.86 (s, 1H), 7.53 (m, 1H), 4.12 (s, 3H), 3.88 (s, 3H), 2.27 (s, 3H); MS (ES) m/z 431.1 (M+1). Analysis for C20H16Cl2N4O3.7H2O: Found: C, 43.23; H, 3.35; N, 10.24. Calcd: C, 43.06; H, 5.38; N, 10.05.

reactant | N-(4-chloro-3-cyano-6-methoxy-7-quinolinyl)acetamide | 0.035 mol, 9.7 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)NC(C)=O)C#N | C13H10ClN3O2
reactant | 2,4-dichloro-5-methoxyaniline | 0.038 mol, 7.4 g | ClC1=C(N)C=C(C(=C1)Cl)OC | C7H7Cl2NO
reactant | pyridine hydrochloride | 0.035 mol, 4.1 g | Cl.N1=CC=CC=C1
solvent | 2-ethoxyethanol | 97 ml | C(C)OCCO | C4H10O2
product | N-[3-Cyano-4-(2,4-dichloro-5-methoxyanilino)-6-methoxy-7-quinolinyl]acetamide | 10.7 g, 71% yield | C(#N)C=1C=NC2=CC(=C(C=C2C1NC1=C(C=C(C(=C1)OC)Cl)Cl)OC)NC(C)=O | C20H16Cl2N4O3
